US08937083B2
To a 20 mL vial was added N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-N-ethyl-4,4,4-trifluoro-3-(methylthio)butanamide (82 mg, 0.209 mmol) and hexafluoroisopropanol (1.5 mL). Hydrogen peroxide (0.054 mL, 0.626 mmol, 35% solution in water) was added in one portion and the solution was stirred at room temperature. After 3 hours the reaction was quenched with saturated sodium sulfite solution and extracted with EtOAc (3×20 mL). The combined organic layers were dried over sodium sulfate, concentrated and purified by chromatography (0-10% MeOH/DCM) to give N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-N-ethyl-4,4,4-trifluoro-3-(methylsulfinyl)butanamide (76 mg, 0.186 mmol, 89% yield) as white semi-solid: 1H NMR (400 MHz, CDCl3) δ 8.98 (d, J=2.3 Hz, 1H), 8.63 (td, J=4.8, 2.4 Hz, 1H), 8.14-8.01 (m, 2H), 7.46 (ddd, J=8.3, 4.8, 0.7 Hz, 1H), 4.26 (dd, J=17.2, 8.4 Hz, 1H), 3.89-3.61 (m, 2H), 3.01 (dd, J=17.6, 8.2 Hz, 1H), 2.77 (s, 2H), 2.48 (dd, J=17.7, 3.3 Hz, 1H), 1.19 (t, J=7.2 Hz, 3H) (only one isomer shown); ESIMS m/z 409 ([M+H]+); IR (Thin film) 1652 cm−1.

reactant | N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-N-ethyl-4,4,4-trifluoro-3-(methylthio)butanamide | 0.209 mmol, 82 mg | ClC1=NN(C=C1N(C(CC(C(F)(F)F)SC)=O)CC)C=1C=NC=CC1 | C15H16ClF3N4OS
reactant | hexafluoroisopropanol | 1.5 mL | FC(C(C(F)(F)F)O)(F)F | C3H2F6O
reactant | Hydrogen peroxide | 0.626 mmol, 0.054 mL | OO | H2O2
product | N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-N-ethyl-4,4,4-trifluoro-3-(methylsulfinyl)butanamide | 0.186 mmol, 76 mg, 89% yield | ClC1=NN(C=C1N(C(CC(C(F)(F)F)S(=O)C)=O)CC)C=1C=NC=CC1 | C15H16ClF3N4O2S
